US09260420B2
A solution of 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one (0.26 g), which is a mixture with 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one, was suspended in dichloromethane (10 ml), 3,4-dihydro-2H-pyran (0.08 ml) was added, p-toluenesulfonic acid hydrate (0.11 g) was added with stirring under ice-cooling, and the mixture was stirred at room temperature overnight. With stirring under ice-cooling, aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with dichloromethane, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (dichloromethane:methanol=60:1) to give 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-(tetrahydro-2H-pyran-2-yloxy)methyl-3,4-dihydro-1H-quinolin-2-one (180 mg).

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one | 0.26 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)CO)=O | C26H31N3O3S
reactant | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=C2)=O | C25H29N3O2S
reactant | 3,4-dihydro-2H-pyran | 0.08 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | 0.11 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-(tetrahydro-2H-pyran-2-yloxy)methyl-3,4-dihydro-1H-quinolin-2-one | 180 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COC2OCCCC2)=O | C31H39N3O4S
